US06713499B2
To a stirred suspension of 2.00 g (5.36 mmol) 1-benzoyl-3-{2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea in 13 ml methanol was added dropwise 0.15 ml (0.80 mmol) 5.4 M sodium methylate solution and stirring continued for 1 h at room temperature. The mixture was then poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate) afforded 1.40 g (97%) {2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea as an amber oil. ES-MS m/e (%): 270 (M+H+, 100).

reactant | 1-benzoyl-3-{2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea | 5.36 mmol, 2.00 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(C)CCOC)OC | C19H23N3O3S
reactant | sodium methylate | 0.80 mmol, 5.4 M, 0.15 ml | C[O-].[Na+]
solvent | methanol | 13 ml | CO | CH4O
product | {2-methoxy-5-[(2-methoxy-ethyl)-methyl-amino]-phenyl}-thiourea | 1.40 g, 97% | COC1=C(C=C(C=C1)N(C)CCOC)NC(=S)N | C12H19N3O2S
